US06762320B2
N-{4-[2-(4-Fluoro-phenyl)-vinyl]-phenyl}-malonamide
Prepared in analogy to example 3 from N-{4-[2-(4-fluoro-phenyl)-vinyl]-phenyl}-malonamic acid methyl ester and 7M ammonia in methanol. Yield=89%. Colorless solid. MS: m/e=299.2 (M++H).

reactant | N-{4-[2-(4-fluoro-phenyl)-vinyl]-phenyl}-malonamic acid methyl ester | COC(CC(=O)NC1=CC=C(C=C1)C=CC1=CC=C(C=C1)F)=O | C18H16FNO3
reactant | ammonia | 7M | N | H3N
solvent | methanol | CO | CH4O
product | N-{4-[2-(4-Fluoro-phenyl)-vinyl]-phenyl}-malonamide | Yield=89% | FC1=CC=C(C=C1)C=CC1=CC=C(C=C1)NC(CC(=O)N)=O | C17H15FN2O2
